2164-02-18 13:43:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
   62-year-old man quadraplegic s/p transverse myelitis, h/o asthma,
   multiple pnas, initially admitted on [**2163-2-14**] for hypoxia, concerning
   for pna, temporarily in ICU on [**2164-2-15**] for hypoxia, now transferred
   back to ICU from floor for frequent hypoxic episodes.
   Allergies:
   Aspirin
   Samter's syndro
   Erythromycin Base
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Cottonseed Oil
   Unknown;
   Ceftazidime
   Rash;
   Clindamycin
   Hives; Rash;
   Naloxone
   oral naloxone n
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-18**] 01:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 108 (108 - 108) bpm
   BP: 125/70(82) {0/0(0) - 0/0(0)} mmHg
   RR: 38 (38 - 38) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             4 mL
   PO:
             TF:
   IVF:
   4 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    650 mL
   Urine:
   650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -646 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 90%
   ABG: ////
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): person, place,
   time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   633 K/uL
   9.6 g/dL
   104 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.4 mEq/L
   5 mg/dL
   92 mEq/L
   132 mEq/L
   28.5 %
   13.6 K/uL
        [image002.jpg]
                             [**2164-2-15**]  05:09 AM
   WBC
   13.6
   Hct
   28.5
   Plt
   633
   Cr
   0.5
   TropT
   0.02
   Glucose
   104
   Other labs: PT / PTT / INR:14.6/28.2/1.3, CK / CKMB /
   Troponin-T:24//0.02, ALT / AST:27/39, Alk Phos / T Bili:157/0.3,
   Differential-Neuts:78.0 %, Band:0.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:9.0
   %, Albumin:2.6 g/dL, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR [**2164-2-17**]: There has seen no interval change in the dilated
   tracheobronchial tree and dilated esophagus. The bibasilar
   consolidative changes of lung bases, which are superimposed on
   underlying interstitial lung disease, appear relatively unchanged.
   However, there are new foci of atelectasis within the right lung. No
   pneumothorax or pleural effusion is detected.
   .
   Chest CTA [**2164-2-14**]:
   1. No pulmonary embolus.
   2. Progressed interstitial lung disease including honeycombing,
   cylindrical
   bronchiectasis, and diffuse ground-glass opacification predominantly in
   the
   lower lobes. Nonspecific interstitial pneumonia is a primary diagnostic
   consideration, with the possibility of superimposed aspiration
   suggested
   particularly in light of the patulous esophagus. Although unlikely
   given age, connective tissue disease may also present in this manner.
   It would be atypical however to present at this advanced age.
   3. Meidastinal adenopathy. Given relative dramatic sizes, felt out of
   proportion to be reactive nodes. Follow up CT in [**2-3**] months recommended
   to
   further evaluate.
   4. Large hiatal hernia with patulous esophagus. Contributes to
   possibility
   of superimposed aspiration.
   Microbiology: Rapid viral panel [**2164-2-16**]: negative
   Urine cx [**2164-2-15**]: GNRs
   Blood cx [**2164-2-14**]: NGTD
   Assessment and Plan
   62M quadraparetic s/p transverse myelitis, sent to ICU from floor for
   hypoxia and closer monitoring/nursing care.
   .
   # Hypoxia: persistent despite antibiotics for presumed pneumonia,
   ?aspiration especially as patient has patulous esophagus. Concerning
   for underlying IPF given chest CT findings. Unable to bronch so far due
   to easy desaturation to 60s. No PE per chest CTA. Less likely is
   pulmonary edema. Leukocytosis improving on abx.
   - continue vanco, pip-tazo, levoflox for now
   - sputum cx
   - consider elective intubation for bronch
   - hold off on diuresis for now
   .
   # LE edema: Pt with notable LE edema which by report is new. Bilateral,
   with some erythema which could represent venous stasis vs cellulitis.
   Echo showed preserved biventricular systolic function. LENIS showed DVT
   in left femoral vein.
   - vanco will cover cellulitis
   - continue heparin gtt for now
   - gentle diuresis
   .
   # Sacral decubiti: Multiple sacral decubiti, with some ? osteo per
   wife. Was treated with levoflox as outpatient, scheduled for Plastics
   eval [**2164-2-16**] as outpatient..
   - f/u wound care recs
   - f/u plastics consult
   .
   # Tib/fib fx: Fx sustained falling from WC. This was not treated
   surgically.
   - Continue boot
   - Ortho prn
   .
   # Chronic pain: Pt is on several medications, including methadone and
   fenatyl.
   - Continue meds cautiously given resp status
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   .
   # PPX: PPI, heparin gtt, bowel regimen
   .
   # ACCESS: PIV
   .
   # CODE: Full
   .
   # CONTACT:  Wife
   .
   # DISPO: ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2164-02-19 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Dyspnea
   24 Hour Events:
   Transferred back to ICU for frequent desating to 60s requiring NRB, no
   fever, persistent leukocytosis, on broad-spectrum abx
   - monitor for now; will not electively intubate for bronch (for now)
   - talked to GI re: possible esophageal pH probe; GI recommended upper
   GI series first and then endoscopy
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAspirin
   Samter's syndro
   Erythromycin Base
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Cottonseed Oil
   Unknown;
   Ceftazidime
   Rash;
   Clindamycin
   Hives; Rash;
   Naloxone
   oral naloxone n
   Last dose of Antibiotics:
   Levofloxacin - [**2164-2-18**] 03:08 PM
   Vancomycin - [**2164-2-18**] 10:27 PM
   Piperacillin - [**2164-2-19**] 12:17 AM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Heparin Sodium - [**2164-2-18**] 04:56 PM
   Fentanyl - [**2164-2-19**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Weight loss
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated
   Pain: [**4-4**] Moderate
   Pain location: LE
   Flowsheet Data as of  [**2164-2-19**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.7
C (96.3
   HR: 93 (86 - 108) bpm
   BP: 125/73(82) {110/55(67) - 135/75(85)} mmHg
   RR: 19 (15 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    640 mL
                                                                    348 mL
   PO:
             TF:
   IVF:
                                                                    640 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    580 mL
   Urine:
                                                                  1,630 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Musculoskeletal: Unable to stand, paraplegic
   Skin:  Warm, sacral decubitus ulcer
   Neurologic: Responds to: Not assessed, Movement: Not assessed,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   603 K/uL
   9.1 g/dL
   161 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.0 mEq/L
   6 mg/dL
   91 mEq/L
   134 mEq/L
   28.1 %
   15.2 K/uL
        [image002.jpg]
                             [**2164-2-15**]  05:09 AM
                             [**2164-2-19**]  04:06 AM
   WBC
   13.6
   15.2
   Hct
   28.5
   28.1
   Plt
   633
   603
   Cr
   0.5
   0.7
   TropT
   0.02
   Glucose
   104
   161
   Other labs: PT / PTT / INR:18.9/66.2/1.7, CK / CKMB /
   Troponin-T:24//0.02, ALT / AST:27/39, Alk Phos / T Bili:157/0.3,
   Differential-Neuts:78.0 %, Band:0.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:9.0
   %, Albumin:2.6 g/dL, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 H/O ANXIETY
 ALTERATION IN NUTRITION
 PNEUMONIA, ASPIRATION
 HYPOXEMIA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CHRONIC PAIN
   62M paraplegic s/p transverse myelitis, sent to ICU from floor for
   hypoxia and closer monitoring/nursing care.
   .
   # Hypoxia: persistent despite antibiotics for presumed pneumonia,
   ?aspiration especially as patient has patulous esophagus. Concerning
   for underlying IPF given chest CT findings. Unable to bronch so far due
   to easy desaturation to 60s. No PE per chest CTA. Less likely is
   pulmonary edema. Leukocytosis improving on abx.
   - continue vanco, pip-tazo, levoflox for now
   - sputum cx
   - consider elective intubation for bronch
   - hold off on diuresis for now
   - consider bronch
   .
   # LE edema: Pt with notable LE edema which by report is new. Bilateral,
   with some erythema which could represent venous stasis vs cellulitis.
   Echo showed preserved biventricular systolic function. LENIS showed DVT
   in left femoral vein.
   - vanco will cover cellulitis
   - continue heparin gtt for now
   - gentle diuresis
   .
   # Sacral decubiti: Multiple sacral decubiti, with some ? osteo per
   wife. Was treated with levoflox as outpatient, scheduled for Plastics
   eval [**2164-2-16**] as outpatient..
   - f/u wound care recs
   - f/u plastics consult
   .
   # Tib/fib fx: Fx sustained falling from WC. This was not treated
   surgically.
   - Continue boot
   - Ortho prn
   .
   # Chronic pain: Pt is on several medications, including methadone and
   fenatyl.
   - Continue meds cautiously given resp status
   - palliative care consult
   - [**Female First Name (un) 1290**]-psych c/s
   - prn fentanyl
   .
   # FEN: IVFs / replete lytes prn /  bowel regimen/ NGT for TFs (if
   amenable)
   .
   # PPX: PPI, heparin gtt, bowel regimen
   .
   # ACCESS: PIV
   .
   # CODE: Full
   .
   # CONTACT:  Wife
   .
   # DISPO: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-18**] 01:22 PM
   20 Gauge - [**2164-2-19**] 04:51 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition: ICU

2164-02-19 10:02:00 Physician Attending Progress Note
Chief Complaint: dyspnea; abnormal chest CT
   24 Hour Events:
   Waxing and [**Doctor Last Name 42**] oxygen overnight. Significant anxiety requiring
   xanax.  Also, he complains of severe pain, given fentanyl IV.
   Allergies:
   Aspirin
   Samter's syndro
   Erythromycin Base
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Cottonseed Oil
   Unknown;
   Ceftazidime
   Rash;
   Clindamycin
   Hives; Rash;
   Naloxone
   oral naloxone
   Last dose of Antibiotics:
   Levofloxacin - [**2164-2-18**] 03:08 PM
   Vancomycin - [**2164-2-18**] 10:27 PM
   Piperacillin - [**2164-2-19**] 12:17 AM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Heparin Sodium - [**2164-2-18**] 04:56 PM
   Fentanyl - [**2164-2-19**] 07:56 AM
   Other medications:
   Heparin drip
   Duragesic patch
   Mexilitine
   Levofloxacin 750mg IV daily
   colace
   Uroqid
   Mucinex
   Baclofen
   Zinc
   Omeprazole 20mg daily
   Methadone 20mg [**Hospital1 **]
   Synthroid
   Lactulose
   Atrovent
   Fexofenadine
   Zosyn
   Vancomycin
   Wellbutrin
   Polyethylene glycol
   Theophylline
   MVI
   Vitamin C
   Changes to medical and family history:
   No change from admission
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-19**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.7
C (96.3
   HR: 98 (86 - 108) bpm
   BP: 128/70(86) {110/55(67) - 135/75(88)} mmHg
   RR: 18 (15 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    640 mL
                                                                    392 mL
   PO:
             TF:
   IVF:
                                                                    640 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    580 mL
   Urine:
                                                                  1,630 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: Thin, cachectic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Crackles : bilateral bases)
   Abdominal: Soft
   Extremities: Right: Trace, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   603 K/uL
   161 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.0 mEq/L
   6 mg/dL
   91 mEq/L
   134 mEq/L
   28.1 %
   15.2 K/uL
        [image002.jpg]
                             [**2164-2-15**]  05:09 AM
                             [**2164-2-19**]  04:06 AM
   WBC
   13.6
   15.2
   Hct
   28.5
   28.1
   Plt
   633
   603
   Cr
   0.5
   0.7
   TropT
   0.02
   Glucose
   104
   161
   Other labs: PT / PTT / INR:18.9/66.2/1.7, CK / CKMB /
   Troponin-T:24//0.02, ALT / AST:27/39, Alk Phos / T Bili:157/0.3,
   Differential-Neuts:78.0 %, Band:0.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:9.0
   %, Albumin:2.6 g/dL, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   62M with history of transverse myelitis; admitted with dyspnea and new
   bilateral ground glass opacities on chest CT.  Unclear etiology, but
   concerning for possible ILD versus aspiration.
   1. Hypoxemia: as noted in admission note, broad differential.
   - Will repeat CBC differential to re-evaluate for eosinophils
   - Await ANCA, [**Doctor First Name 1205**], GBM, IgE
   - Send glucan and galactommanan
   - SPEP/UPEP
   - Sputum if able to obtain
   - For time being will hold on bronchoscopy, wait another 24-48h and
   follow clinically. Will possibly require intubation and bronchoscopy
   but should have discussion with him and family regarding potential for
   prolonged ventilation
   2. Pain: he has chronic lower back pain, is increasing in severity.
   The etiology is unclear, but likely complicated by constipation now.
    - Improve bowel regimen
    - When stable from pulmonary standpoint would evaluate with MRI or CT
   of lumbar spine.
    - Geriatric-psych consult for behavior issues
   3. GI:
    - will need evaluation of aspiration, with pH probe. Plan to discuss
    - Increase dose of omeprazole to 40mg daily
    - Will discuss placement of NGT with patient; he has had a history of
   sinus surgery and should review history first.
   4. DVT
    - on heparin drip
   ICU Care
   Nutrition: Currently NPO
   Lines:
   18 Gauge - [**2164-2-18**] 01:22 PM
   20 Gauge - [**2164-2-19**] 04:51 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2164-2-19**] 15:27 ------

2164-02-20 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory distress
   24 Hour Events:
   - PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) **] called: suggests CPAP trial if possible but thinks
   patient will be unlikely to tolerate mask unless Clonazepam loaded (pt
   states he's tolerated in the past for approximately 30 seconds); agrees
   that intubation may not be helpful for longterm goals but thinks PEG
   may be necessary and that family would agree
   - Palliative / Pain consult: suggest scheduled Alprazolam 0.125 Q4H (pt
   may refuse); Fentanyl 12.5-25mcg IV q4H (pt may refuse); contact Dr.
   [**Last Name (STitle) **] and see if he will be able to visit patient in hospital, also need
   to clarify if longterm goals have been discussed as outpatient with
   family
   - Geriatrics consult: Would recommend Celexa instead of Wellbutrin,
   schedule alprazolam, contact PCP
   [**Name Initial (PRE) **] CBC with diff obtain: no eosiniophilia or significant change
   - NGT not placed given h/o nasal surgery
   - PEG not pursued given tenuous respiratory status
   - Anti-GBM, SPEP, UPEP sent
   - Pt taking minimal pos, changed po Alprazolam to IV Ativan
   - Medications changed to IV for less po dosing: Synthroid, PPI
   - Started refusing po anxiolytics; given Ativan 0.5mg IV x 2
   - Per discussion with family & patient, will change code status to
   DNR/DNI as patient would never want a trach and his functional status
   is already poor; if no hope for improved functional status, would
   prefer home with hospice
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAspirin
   Samter's syndro
   Erythromycin Base
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Cottonseed Oil
   Unknown;
   Ceftazidime
   Rash;
   Clindamycin
   Hives; Rash;
   Naloxone
   oral naloxone n
   Last dose of Antibiotics:
   Levofloxacin - [**2164-2-18**] 03:08 PM
   Piperacillin - [**2164-2-19**] 04:16 PM
   Vancomycin - [**2164-2-19**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-20**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Fentanyl - [**2164-2-19**] 07:41 PM
   Lorazepam (Ativan) - [**2164-2-19**] 07:45 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Cough, Tachypnea
   Genitourinary: Foley
   Integumentary (skin): decubitus ulcer
   Flowsheet Data as of  [**2164-2-20**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.8
   HR: 99 (91 - 118) bpm
   BP: 125/53(70) {104/53(68) - 131/83(90)} mmHg
   RR: 15 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,318 mL
                                                                    888 mL
   PO:
             TF:
   IVF:
                                                                  2,318 mL
                                                                    888 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    750 mL
   Urine:
                                                                  1,710 mL
                                                                    750 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                    208 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   589 K/uL
   9.5 g/dL
   154 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.1 mEq/L
   11 mg/dL
   101 mEq/L
   138 mEq/L
   29.3 %
   16.1 K/uL
        [image002.jpg]
                             [**2164-2-15**]  05:09 AM
                             [**2164-2-19**]  04:06 AM
                             [**2164-2-20**]  03:13 AM
   WBC
   13.6
   15.2
   16.1
   Hct
   28.5
   28.1
   29.3
   Plt
   633
   603
   589
   Cr
   0.5
   0.7
   1.1
   TropT
   0.02
   Glucose
   104
   161
   154
   Other labs: PT / PTT / INR:23.1/150.0/2.2, CK / CKMB /
   Troponin-T:24//0.02, ALT / AST:27/39, Alk Phos / T Bili:157/0.3,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:4.0 %, Albumin:2.6 g/dL, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ANXIETY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, ASPIRATION
 HYPOXEMIA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CHRONIC PAIN
   62M paraplegic s/p transverse myelitis, sent to ICU from floor for
   hypoxia and closer monitoring/nursing care.
   .
   # Hypoxia: persistent despite antibiotics for presumed pneumonia,
   ?aspiration especially as patient has patulous esophagus. Concerning
   for underlying IPF given chest CT findings. Unable to bronch so far due
   to easy desaturation to 60s. No PE per chest CTA. Less likely is
   pulmonary edema. Leukocytosis improving on abx.
   - continue vanco, pip-tazo, levoflox for now
   - sputum cx (not currently producing sputum)
   - consider elective intubation for bronch but given pt adamantly DNI
   given possible need for trach, no bronch; also bronch would be
   difficult given desaturations
   - steroids (Solumedrol 60mg IV QD)
   # LE edema: Pt with notable LE edema which by report is new. Bilateral,
   with some erythema which could represent venous stasis vs cellulitis.
   Echo showed preserved biventricular systolic function. LENIS showed DVT
   in left femoral vein.
   - vanco will cover cellulitis
   - continue heparin gtt for now
   - run even
   .
   # Sacral decubiti: Multiple sacral decubiti, with some ? osteo per
   wife. Was treated with levoflox as outpatient, scheduled for Plastics
   eval [**2164-2-16**] as outpatient..
   - f/u wound care recs
   - f/u plastics consult
   .
   # Tib/fib fx: Fx sustained falling from WC. This was not treated
   surgically.
   - Continue boot
   - Ortho prn
   .
   # Chronic pain: Pt is on several medications, including methadone and
   fenatyl.
   - Continue meds cautiously given resp status
   - palliative care consult
   - [**Female First Name (un) 1290**]-psych c/s
   - prn fentanyl
   .
   # FEN: IVFs / replete lytes prn /  bowel regimen/ NGT for TFs (if
   amenable)
   .
   # PPX: PPI, heparin gtt, bowel regimen
   # ACCESS: PIV
   # CODE: DNR/DNI
   # CONTACT:  Wife
   .
   # DISPO: ICU for now
   ICU Care
   Nutrition: NPO
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2164-2-18**] 01:22 PM
   20 Gauge - [**2164-2-19**] 07:46 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:  PPI IV
   VAP:
   Comments:
   Communication:  Comments:  Plan to meet with PCP Dr [**Last Name (STitle) **] today with
   family
   Code status:  DNR/DNI
   Disposition:  ICU

2164-02-20 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Returned to ICU from the floor due to needing high O2 req, 7.49/44/141
   on NRB. After discussion with family they decided to make him DNR/DNI
   and no bronch due to risk of needing long term ventilation.
   Allergies:
   Aspirin
   Samter's syndro
   Erythromycin Base
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Cottonseed Oil
   Unknown;
   Ceftazidime
   Rash;
   Clindamycin
   Hives; Rash;
   Naloxone
   oral naloxone n
   Last dose of Antibiotics:
   Piperacillin - [**2164-2-19**] 04:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-20**] 08:00 AM
   Levofloxacin - [**2164-2-20**] 08:10 AM
   Vancomycin - [**2164-2-20**] 08:40 AM
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2164-2-19**] 07:45 PM
   Pantoprazole (Protonix) - [**2164-2-20**] 08:00 AM
   Fentanyl - [**2164-2-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-20**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.2
C (95.4
   HR: 111 (91 - 118) bpm
   BP: 129/58(74) {104/53(68) - 129/83(90)} mmHg
   RR: 30 (11 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,318 mL
                                                                  1,613 mL
   PO:
             TF:
   IVF:
                                                                  2,318 mL
                                                                  1,613 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    810 mL
   Urine:
                                                                  1,710 mL
                                                                    810 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                    208 mL
                                                                    803 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffusely, Wheezes : diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   589 K/uL
   154 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.1 mEq/L
   11 mg/dL
   101 mEq/L
   138 mEq/L
   29.3 %
   16.1 K/uL
        [image002.jpg]
                             [**2164-2-15**]  05:09 AM
                             [**2164-2-19**]  04:06 AM
                             [**2164-2-20**]  03:13 AM
   WBC
   13.6
   15.2
   16.1
   Hct
   28.5
   28.1
   29.3
   Plt
   633
   603
   589
   Cr
   0.5
   0.7
   1.1
   TropT
   0.02
   Glucose
   104
   161
   154
   Other labs: PT / PTT / INR:23.1/150.0/2.2, CK / CKMB /
   Troponin-T:24//0.02, ALT / AST:27/39, Alk Phos / T Bili:157/0.3,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:4.0 %, Albumin:2.6 g/dL, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ANXIETY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, ASPIRATION
 HYPOXEMIA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CHRONIC PAIN
   1. Diffuse parenchymal lung disease:
   -complete tx for PNA
   -start solumedrol 60 mg IV daily for possible inflammatory disease
   given we will not persue bronch or bx
   -IgE level
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1205**]/ANCA/antiGBM
   2. DVT:
   -heparin gtt
   3. Sacral decub:
   -on abx
   -cont. IV pain regimen
   4. Pain/anxiety:
   -cont. IV opiates and benzos
   -geripsyche recs
   5. FEN: refusing pos for now, consider IV nutrition
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2164-2-18**] 01:22 PM
   20 Gauge - [**2164-2-19**] 07:46 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. 62 yo male with transverse myelitis,
   Sampter
s triad, recent leg fracture, frequent UTI
s admitted with
   shortness of breath and diffuse lung parenchymal infiltrates.  On
   extensive abx (Vanc/zosyn/levaquin) for presumed aspiration but
   continues to be in acute respiratory distress on NRB for oxygenation.
   Some component of anxiety. Unable to proceed with more invasive testing
   (bronchoscopy) with pt DNR/DNI. Most of his w/u is pending, though CRP
   and ESR are very elevated.
   Continuing abx, adjusting sedation and pain medicines for pt comfort.
   With concerns for inflammatory lung disease and non-resolving
   respiratory distress, have discussed with his wife a trial of steroids
   while we wait for the rest of his w/u results to return.
   Pt is critically ill.  Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2164-2-20**] 12:26 ------

2164-02-21 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: shortness of breath
   24 Hour Events:
   - [**Female First Name (un) **] recs: Remeron solutab 15mg PO qHS
   - Met with PCP [**Name Initial (PRE) **]: start Haldol
   - Nutrition plan: wife OK with TPN if needed, no PEG, no NGT
   - Vanco trough 21 at 3 AM and dosed at 8 & 8, gave Vanco 750 x 1,
   trough 7 AM
   - Watch creatinine, slowly trending up
   - ANCA, [**Doctor First Name 1205**], UPEP: neg
   - SPEP, IGE, ACE, anti-GBM: P
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAspirin
   Samter's syndro
   Erythromycin Base
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Cottonseed Oil
   Unknown;
   Ceftazidime
   Rash;
   Clindamycin
   Hives; Rash;
   Naloxone
   oral naloxone n
   Last dose of Antibiotics:
   Piperacillin - [**2164-2-19**] 04:16 PM
   Levofloxacin - [**2164-2-20**] 08:10 AM
   Vancomycin - [**2164-2-20**] 10:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-21**] 12:28 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-20**] 08:00 AM
   Lorazepam (Ativan) - [**2164-2-21**] 01:27 AM
   Fentanyl - [**2164-2-21**] 05:47 AM
   Haloperidol (Haldol) - [**2164-2-21**] 06:48 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Weight loss
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Edema
   Respiratory: Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2164-2-21**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 100 (93 - 111) bpm
   BP: 131/78(89) {106/58(73) - 144/86(94)} mmHg
   RR: 28 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,145 mL
                                                                    787 mL
   PO:
             TF:
   IVF:
                                                                  3,145 mL
                                                                    787 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    490 mL
   Urine:
                                                                  1,425 mL
                                                                    490 mL
   Drains:
   Balance:
                                                                  1,720 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed, ulceration
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   561 K/uL
   10.6 g/dL
   154 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.4 mEq/L
   14 mg/dL
   99 mEq/L
   137 mEq/L
   33.5 %
   18.5 K/uL
        [image002.jpg]
                             [**2164-2-15**]  05:09 AM
                             [**2164-2-19**]  04:06 AM
                             [**2164-2-20**]  03:13 AM
                             [**2164-2-20**]  11:48 PM
                             [**2164-2-21**]  05:57 AM
   WBC
   13.6
   15.2
   16.1
   18.5
   Hct
   28.5
   28.1
   29.3
   33.5
   Plt
   633
   603
   589
   561
   Cr
   0.5
   0.7
   1.1
   1.3
   TropT
   0.02
   Glucose
   104
   161
   154
   154
   Other labs: PT / PTT / INR:24.2/71.3/2.4, CK / CKMB /
   Troponin-T:24//0.02, ALT / AST:27/39, Alk Phos / T Bili:157/0.3,
   Differential-Neuts:91.3 %, Band:0.0 %, Lymph:5.8 %, Mono:2.8 %, Eos:0.1
   %, Albumin:2.6 g/dL, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ANXIETY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, ASPIRATION
 HYPOXEMIA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CHRONIC PAIN
   62M paraplegic s/p transverse myelitis, sent to ICU from floor for
   hypoxia and closer monitoring/nursing care.
   .
   # Hypoxia: persistent despite antibiotics for presumed pneumonia,
   ?aspiration especially as patient has patulous esophagus. Concerning
   for underlying IPF given chest CT findings. Unable to bronch so far due
   to easy desaturation to 60s. No PE per chest CTA. Less likely is
   pulmonary edema. Leukocytosis improving on abx.
   - continue vanco, pip-tazo, levoflox for now
   - sputum cx (not currently producing sputum)
   - consider elective intubation for bronch but given pt adamantly DNI
   given possible need for trach, no bronch; also bronch would be
   difficult given desaturations
   - steroids (Solumedrol 60mg IV QD)
   - some coughing over last 24H, try to obtain sputum sample
   - CXR this AM
   # LE edema: Pt with notable LE edema which by report is new. Bilateral,
   with some erythema which could represent venous stasis vs cellulitis.
   Echo showed preserved biventricular systolic function. LENIS showed DVT
   in left femoral vein.
   - vanco will cover cellulitis
   - continue heparin gtt for now
   - run even
   .
   # Sacral decubiti: Multiple sacral decubiti, with some ? osteo per
   wife. Was treated with levoflox as outpatient, scheduled for Plastics
   eval [**2164-2-16**] as outpatient..
   - f/u wound care recs
   - f/u plastics consult
   .
   # Tib/fib fx: Fx sustained falling from WC. This was not treated
   surgically.
   - Continue boot
   - Ortho prn
   .
   # Chronic pain: Pt is on several medications, including methadone and
   fentanyl.
   - Continue meds cautiously given resp status
   - palliative care consult:
   - [**Female First Name (un) 1290**]-psych c/s: start remeron
   - prn fentanyl
   - continue IV ativan, IV haldol, IV fentanyl
   .
   # FEN: IVFs / replete lytes prn /  bowel regimen/ NGT for TFs (if
   amenable)
   .
   # PPX: PPI, heparin gtt, bowel regimen
   # ACCESS: PIV
   # CODE: DNR/DNI
   # CONTACT:  Wife
   .
   # DISPO: ICU for now vs home with hospice
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-18**] 01:22 PM
   20 Gauge - [**2164-2-19**] 07:46 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition: ICU vs home with hospice

2164-02-21 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   [**Doctor First Name 1205**], ANCA neg. Started steroids yesterday.
   Allergies:
   Aspirin
   Samter's syndro
   Erythromycin Base
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Cottonseed Oil
   Unknown;
   Ceftazidime
   Rash;
   Clindamycin
   Hives; Rash;
   Naloxone
   oral naloxone n
   Last dose of Antibiotics:
   Piperacillin - [**2164-2-19**] 04:16 PM
   Vancomycin - [**2164-2-20**] 10:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-21**] 07:59 AM
   Levofloxacin - [**2164-2-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2164-2-21**] 05:47 AM
   Pantoprazole (Protonix) - [**2164-2-21**] 09:00 AM
   Haloperidol (Haldol) - [**2164-2-21**] 09:00 AM
   Lorazepam (Ativan) - [**2164-2-21**] 10:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-21**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.3
C (95.6
   HR: 100 (93 - 108) bpm
   BP: 118/77(87) {106/59(73) - 144/86(94)} mmHg
   RR: 21 (17 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,145 mL
                                                                  1,227 mL
   PO:
             TF:
   IVF:
                                                                  3,145 mL
                                                                  1,227 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    685 mL
   Urine:
                                                                  1,425 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,720 mL
                                                                    542 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Wheezes : diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   561 K/uL
   110 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.1 mEq/L
   16 mg/dL
   98 mEq/L
   141 mEq/L
   33.5 %
   18.5 K/uL
        [image002.jpg]
                             [**2164-2-15**]  05:09 AM
                             [**2164-2-19**]  04:06 AM
                             [**2164-2-20**]  03:13 AM
                             [**2164-2-20**]  11:48 PM
                             [**2164-2-21**]  05:57 AM
   WBC
   13.6
   15.2
   16.1
   18.5
   Hct
   28.5
   28.1
   29.3
   33.5
   Plt
   633
   603
   589
   561
   Cr
   0.5
   0.7
   1.1
   1.3
   1.2
   TropT
   0.02
   Glucose
   104
   161
   154
   154
   110
   Other labs: PT / PTT / INR:24.2/71.3/2.4, CK / CKMB /
   Troponin-T:24//0.02, ALT / AST:27/39, Alk Phos / T Bili:157/0.3,
   Differential-Neuts:91.3 %, Band:0.0 %, Lymph:5.8 %, Mono:2.8 %, Eos:0.1
   %, Albumin:2.6 g/dL, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ANXIETY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, ASPIRATION
 HYPOXEMIA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CHRONIC PAIN
   Plan:
   1. Hypoxemia: Started on steroids on interstitial disease
   -recheck CXR
   -change NRB to air to get RA sat
   -refusing nebs
   2. DVT: Cont. heparin
   3. Cellulitis:
   -vancomycin
   4. pain: methadone/fentanyl
   -geripsyche recs
   5. FEN: discuss PICC line for TPN with patient
   -refusing po diet
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2164-2-18**] 01:22 PM
   20 Gauge - [**2164-2-19**] 07:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-02-22 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Difficulty breathing
   24 Hour Events:
   - CXR: Interval worsening
   - Goal to wean FiO2 if possible, not attained
   - Discontinued all oral medications patient is repeatedly refusing
   including: Clonazepam 0.5 mg PO QID, Docusate Sodium 800 mg PO BID,
   Uroqid-Acid No.2 *NF* 500-500 mg Oral [**Hospital1 **], Lactulose 30 mL PO TID,
   Pseudoephedrine 30 mg PO Q6H:PRN, Neo-Synephrine *NF* 0.5 % NU qid:prn,
   Sodium Chloride Nasal [**12-2**] SPRY NU QID:PRN, Baclofen 30 mg PO BID,
   Mucinex *NF* 600 mg Oral [**Hospital1 **], Zinc Sulfate 220 mg PO DAILY,
   Theophylline SR 600 mg PO DAILY, Ascorbic Acid 1000 mg PO BID,
   Polyethylene Glycol 17 g PO DAILY, Simethicone 40-80 mg PO QID:PRN,
   Multivitamins 1 TAB PO DAILY, Guaifenesin [**4-8**] mL PO Q6H:PRN,
   Fexofenadine 60 mg PO BID, Methadone 20 mg PO BID, Ondansetron 4 mg IV
   Q8H:PRN, Calcium Carbonate 500 mg PO QID:PRN, Acetaminophen 325-650 mg
   PO Q6H:PRN, Montelukast Sodium 10 mg PO DAILY, Mexiletine 150 mg PO
   Q12H, Fentanyl Citrate *NF* 800 mcg Buccal QID pain, BuPROPion
   (Sustained Release) 100 mg PO BID
   - Seen by PCP, [**Last Name (NamePattern4) **]. [**Last Name (STitle) **], states patient should go home
   - [**Female First Name (un) **] - if unwilling to have g-tube, then should address goals of care
   and comfort measures
   - Given peripheral TPN and lipids
   - Psych - concerned about abrupt cessation of benzos and opiates.
   recommend haldol 2mg iv bid plus 1 mg q2hrs prn.  would continue to
   give ativan .5-1mg q6h prn; recommend continuation of po benzos and
   wellbutrim if pt goes home (and not on hospice)
   - FeNa 1.2
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAspirin
   Samter's syndro
   Erythromycin Base
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Cottonseed Oil
   Unknown;
   Ceftazidime
   Rash;
   Clindamycin
   Hives; Rash;
   Naloxone
   oral naloxone n
   Last dose of Antibiotics:
   Piperacillin - [**2164-2-19**] 04:16 PM
   Vancomycin - [**2164-2-20**] 10:11 PM
   Levofloxacin - [**2164-2-21**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-22**] 12:13 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-21**] 09:00 AM
   Fentanyl - [**2164-2-21**] 03:00 PM
   Lorazepam (Ativan) - [**2164-2-22**] 12:06 AM
   Haloperidol (Haldol) - [**2164-2-22**] 12:06 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Weight loss
   Cardiovascular: Edema
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated
   Pain: [**4-4**] Moderate
   Pain location: LE b/l
   Flowsheet Data as of  [**2164-2-22**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.2
C (95.4
   HR: 97 (92 - 112) bpm
   BP: 141/77(92) {117/65(78) - 149/97(106)} mmHg
   RR: 22 (15 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,740 mL
                                                                  1,522 mL
   PO:
             TF:
   IVF:
                                                                  2,563 mL
                                                                    792 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                  1,220 mL
   Urine:
                                                                  1,490 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,250 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, sacral decubitus ulcers
   Neurologic: Responds to: Not assessed, Movement: Not assessed,
   Paralyzed, Tone: Decreased
   Labs / Radiology
   588 K/uL
   10.2 g/dL
   181 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.5 mEq/L
   21 mg/dL
   98 mEq/L
   140 mEq/L
   33.3 %
   16.5 K/uL
        [image002.jpg]
                             [**2164-2-15**]  05:09 AM
                             [**2164-2-19**]  04:06 AM
                             [**2164-2-20**]  03:13 AM
                             [**2164-2-20**]  11:48 PM
                             [**2164-2-21**]  05:57 AM
                             [**2164-2-22**]  05:43 AM
   WBC
   13.6
   15.2
   16.1
   18.5
   16.5
   Hct
   28.5
   28.1
   29.3
   33.5
   33.3
   Plt
   633
   603
   589
   561
   588
   Cr
   0.5
   0.7
   1.1
   1.3
   1.2
   1.1
   TropT
   0.02
   Glucose
   104
   161
   154
   154
   110
   181
   Other labs: PT / PTT / INR:17.7/74.6/1.6, CK / CKMB /
   Troponin-T:24//0.02, ALT / AST:27/39, Alk Phos / T Bili:157/0.3,
   Differential-Neuts:91.3 %, Band:0.0 %, Lymph:5.8 %, Mono:2.8 %, Eos:0.1
   %, Albumin:2.6 g/dL, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ANXIETY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, CHRONIC
 PNEUMONIA, ASPIRATION
 HYPOXEMIA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 CHRONIC PAIN
   62M paraplegic s/p transverse myelitis, sent to ICU from floor for
   hypoxia and closer monitoring/nursing care.
   .
   # Hypoxia: persistent despite antibiotics for presumed pneumonia,
   ?aspiration especially as patient has patulous esophagus. Concerning
   for underlying IPF given chest CT findings. Unable to bronch so far due
   to easy desaturation to 60s. No PE per chest CTA. Less likely is
   pulmonary edema. Leukocytosis improving on abx. Did consider elective
   intubation for bronch but given pt adamantly DNI given possible need
   for trach, no bronch; also bronch would be difficult given
   desaturations
   - continue vanco, pip-tazo, levoflox for now
   - steroids (Solumedrol 60mg IV QD)
 will need po equivalent if going
   home
   - some coughing over last 24H, try to obtain sputum sample
   - Follow-up ACE-I, IGE, anti-GBM
   # ARF: Worsening since admission, unclear etiology.  UA negative for
   infection.  FeNa [**2-21**] = 1.2.  Likely some component of prerenal despite
   this given poor po intake.
   - Maintenance fluid while NPO
   - Send urine eos given new antibiotics
   - Trend, renally dose meds
   # LE edema: Pt with notable LE edema which by report is new. Bilateral,
   with some erythema which could represent venous stasis vs cellulitis.
   Echo showed preserved biventricular systolic function. LENIS showed DVT
   in left femoral vein.
   - vanco will cover cellulitis
   - continue heparin gtt for now, will not go home on anti-coagulation
   - encourage improved nutition as likely reflects prealbumin = 2
   .
   # Sacral decubiti: Multiple sacral decubiti, with some ? osteo per
   wife. Was treated with levoflox as outpatient, scheduled for Plastics
   eval [**2164-2-16**] as outpatient..
   - f/u wound care recs & on Vancomycin
   - f/u plastics consult
   - holding vitamins / zinc currently as patient refusing all oral
   medications
   .
   # Tib/fib fx: Fx sustained falling from WC. This was not treated
   surgically.  Ortho aware.
   - Continue boot
   .
   # Chronic pain: Pt is on several medications, including methadone and
   fentanyl.
   - Continue meds cautiously given resp status
   - palliative care consult recs
   - [**Female First Name (un) 1290**]-psych c/s: start remeron
   - prn fentanyl
   - continue IV ativan, IV haldol, IV fentanyl
   - psyche consult recs
   .
   # FEN: IVFs / replete lytes prn /  bowel regimen/  minimal PO, consider
   continued peripheral nutrition
   .
   # PPX: PPI, heparin gtt, bowel regimen
   # ACCESS: PIV
   # CODE: DNR/DNI
   # CONTACT:  Wife
   .
   # DISPO: ICU for now vs home with hospice, family mtg today
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2164-2-21**] 09:10 PM 62.5 mL/hour
   Lines:
   18 Gauge - [**2164-2-21**] 01:22 PM
   20 Gauge - [**2164-2-21**] 09:20 PM